US08957064B2
2-methyl-6-phenyl-5-(4-{4-[5-(6-trifluoromethyl-pyridin-2-yl)-1H-[1,2,4]triazol-3-yl]-piperidin-1-ylmethyl}-phenyl)-[1,2,4]triazolo[1,5-a]pyrimidine
A mixture of 4-(2-methyl-6-phenyl-[1,2,4]triazolo[1,5-a]pyrimidin-5-yl)benzaldehyde (300 mg, 0.95 mmol) and 2-(5-piperidin-4-yl-2H-[1,2,4]triazol-3-yl)-6-trifluoromethyl-pyridine hydrochloride salt (662 mg, 1.43 mmol) in NMP (8.1 mL) was treated with Et3N (0.32 mL), followed by AcOH (98 μL) and the mixture was stirred overnight at rt. NaBH(OAc)3 (222 mg) was added and the mixture stirred for 3 hours. The mixture was partitioned between CH2Cl2 and saturated aqueous NaHCO3 solution, the organic phase washed with brine and concentrated in vacuo. The crude product was purified by preparative HPLC to give the title compound.

reactant | 4-(2-methyl-6-phenyl-[1,2,4]triazolo[1,5-a]pyrimidin-5-yl)benzaldehyde | 0.95 mmol, 300 mg | CC1=NN2C(N=C(C(=C2)C2=CC=CC=C2)C2=CC=C(C=O)C=C2)=N1 | C19H14N4O
reactant | 2-(5-piperidin-4-yl-2H-[1,2,4]triazol-3-yl)-6-trifluoromethyl-pyridine hydrochloride salt | 1.43 mmol, 662 mg | Cl.N1CCC(CC1)C=1N=C(NN1)C1=NC(=CC=C1)C(F)(F)F
reactant | Et3N | 0.32 mL | CCN(CC)CC | C6H15N
reactant | NaBH(OAc)3 | 222 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | NMP | 8.1 mL | CN1CCCC1=O | C5H9NO
solvent | AcOH | 98 μL | CC(=O)O | C2H4O2
product | 2-methyl-6-phenyl-5-(4-{4-[5-(6-trifluoromethyl-pyridin-2-yl)-1H-[1,2,4]triazol-3-yl]-piperidin-1-ylmethyl}-phenyl)-[1,2,4]triazolo[1,5-a]pyrimidine | CC1=NN2C(N=C(C(=C2)C2=CC=CC=C2)C2=CC=C(C=C2)CN2CCC(CC2)C2=NNC(=N2)C2=NC(=CC=C2)C(F)(F)F)=N1 | C32H28F3N9
